US06140320
Part C: Preparation of 5-(1-Butynyl)-7-chloro-1,5-dihydro-5-(trifluoromethyl)-4,1-benzoxazepin-2(3H)-one
To a stirred ice-cooled solition of 167 mg of 6-amino-3-chloro-α-(1-butynyl)-α-(trifluoromethyl)benzyl alcohol in 15 mL of dry ether was added 0.100 mL of dry pyridine and 0.066 mL of bromoacetyl bromide. After 30 min, the reaction mixture was diluted with ether, washed with water and aqueous sodium bicarbonate, dried and evaporated. The residue was dissolved in 15 mL of dry DMF and was treated at room temperature with 25 mg of 100% sodium hydride for 1.5 h. The reaction was partitioned between ethyl acetate and water and the ethyl acetate layer was washed with brine, dried and evaporated. The crude product wes purified by preparative silica gel TLC. (elution with ethel acetate/hexanes 1:2) affording after crystallization from ethyl acetate/hexanes 106 mg of the title compound as colorless crystals: mp 167 -168°; Anal. Calcd. for C14H11NO2ClF3 : C, 52.93; H, 3.49; N, 4.42. Found: C, 52.73; H, 3.64; N, 4.13.

reactant | 6-amino-3-chloro-α-(1-butynyl)-α-(trifluoromethyl)benzyl alcohol | 167 mg | NC1=CC=C(C=C1C(C(F)(F)F)(C#CCC)O)Cl | C12H11ClF3NO
reactant | pyridine | 0.100 mL | N1=CC=CC=C1 | C5H5N
reactant | bromoacetyl bromide | 0.066 mL | BrCC(=O)Br | C2H2Br2O
solvent | ether | 15 mL | CCOCC | C4H10O
product | 5-(1-Butynyl)-7-chloro-1,5-dihydro-5-(trifluoromethyl)-4,1-benzoxazepin-2(3H)-one | C(#CCC)C1(OCC(NC2=C1C=C(C=C2)Cl)=O)C(F)(F)F | C14H11ClF3NO2
